US05412137
At -78° C., 27.8 ml of t-butyl lithium (1.7M) in hexane are added to 5.30 gm of 3-bromo-(1-hexenyl)benzene in 75 mls of tetrahydrofuran. The reaction is stirred for 10 minutes, and then 1.1 ml of Li2CuCl3 (0.20M/THF) is added followed dropwise by 5.78 grams of 1-bromo-5-benzyloxy pentane. After allowing the reaction mixture to come to ambient temperature over 5 hours and stirring for an additional 24 hours, silica gel is added; and the mixture is concentrated and then chromatographed (HPLC) to yield pure 3-(5-benzyloxypentyl)-1-(1-hexenyl)benzene.

reactant | t-butyl lithium | 1.7M, 27.8 ml | C(C)(C)(C)[Li]
reactant | 3-bromo-(1-hexenyl)benzene | 5.30 gm | BrC=1C=C(C=CC1)C=CCCCC | C12H15Br
reactant | 1-bromo-5-benzyloxy pentane | 5.78 grams | BrCCCCCOCC1=CC=CC=C1 | C12H17BrO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 mls | O1CCCC1 | C4H8O
product | 3-(5-benzyloxypentyl)-1-(1-hexenyl)benzene | C(C1=CC=CC=C1)OCCCCCC=1C=C(C=CC1)C=CCCCC | C24H32O
